US05256780
To a solution of 3,4-dihydro-5-methylpyrimido[1,6-a]-indol-1(2H)-one (1.88 g) in N,N-dimethylformamide (30 ml) was added sodium hydride (60% in mineral oil 1.12 g) at 5° C. After being stirred at 5° C. for 30 minutes, 4-(2-chloroethyl)-5-methyl-1H-imidazole hydrochloride (2.17 g) in N,N-dimethylformamide (30 ml) was added dropwise over 20 minutes. The mixture was stirred at 5° C. for 30 minutes and at ambient temperature for 16 hours. The reaction mixture was diluted with chilled water and extracted with a mixture of ethyl acetate and tetrahydrofuran (2:1, 30 ml×2). The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (3%-methanol-chloroform) to give 3,4-dihydro-5-methyl-2-[1-(5-methyl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]indol-1(2H)-one as a powder.

reactant | 3,4-dihydro-5-methylpyrimido[1,6-a]-indol-1(2H)-one | 1.88 g | CC1=C2N(C3=CC=CC=C13)C(NCC2)=O | C12H12N2O
reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | 4-(2-chloroethyl)-5-methyl-1H-imidazole hydrochloride | 2.17 g | Cl.ClCCC=1N=CNC1C
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-dihydro-5-methyl-2-[1-(5-methyl-1H-imidazol-4-yl)ethyl]pyrimido[1,6-a]indol-1(2H)-one | CC1=C2N(C3=CC=CC=C13)C(N(CC2)C(C)C=2N=CNC2C)=O | C18H20N4O
